US06583135B2
Preparation of 8,10-Dichloro-6-(2-phenoxyethyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Hydrochloride
TFA (0.65 mL, 8.4 mmol) was added to a solution of tert-butyl 8,10-dichloro-6-(2-phenoxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.20 g, 0.42 mmol) in CH2Cl2 (6 mL). After 5 h, the reaction was made basic with 10% aqueous NaOH and extracted with CH2Cl2 (3×15 mL). The combined organic layers were washed with brine, dried over Na2SO4, decanted, and concentrated to give a crude solid. After the hydrochloride salt was prepared, it was further purified by recrystallization from MeOH/EtOAc to give 57 mg (33%) of a white solid: mp 242.0-243.0° C.; 1H NMR (300 MHz, DMSO) δ 9.13 (br s, 2H), 7.72 (d, J=1.7 Hz, 1H), 7.26 (m, 2H), 7.13 (d, J=1.7 Hz, 1H), 6.92 (t, J=7.4 Hz, 1H), 6.84 (d, J=7.9 Hz, 2H), 4.64 (m, 2H), 4.17 (m, 2H), 3.49 (m, 2H); 13C NMR (300 MHz, DMSO) δ 157.7, 139.8, 136.7, 129.4, 125.2, 124.4, 121.5, 120.8, 120.0, 114.1, 110.4, 109.6, 66.5, 45.2, 43.6, 42.3, 22.3, 21.0; IR (diffuse reflectance) 2843, 2718, 2688, 2666, 2633, 2440, 1601, 1497, 1460, 1244, 1238, 845, 827, 754, 694 cm−1; MS (EI) m/z 376, 374 (M+), 339, 334, 333, 332, 78, 77, 65, 63; Anal. Calcd for C20H20Cl2N2O.HCl: C, 58.34; H, 5.14; N, 6.80; found: C, 58.10; H, 5.20; N, 6.76.

reactant | TFA | 8.4 mmol, 0.65 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 8,10-dichloro-6-(2-phenoxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.42 mmol, 0.20 g | ClC=1C=C(C=2C3=C(N(C2C1)CCOC1=CC=CC=C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C25H28Cl2N2O3
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 8,10-Dichloro-6-(2-phenoxyethyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Hydrochloride | 57 mg, 33% | Cl.ClC=1C=C(C=2C3=C(N(C2C1)CCOC1=CC=CC=C1)CCNCC3)Cl | InChI=1S/C20H20Cl2N2O.ClH/c21-14-12-17(22)20-16-6-8-23-9-7-18(16)24(19(20)13-14)10-11-25-15-4-2-1-3-5-15;/h1-5,12-13,23H,6-11H2;1H
